datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]C(F)(F)F)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].CC12C3(C)C4(C)C5(C)C1(C)[Os-2:11]2345(C#[O+])(C#[O+])[H:10]>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20](C(F)(F)F)[H:10])=[CH:22]1.CC12C3(C)C4(C)C5(C)C1(C)[Os-:11]2345(C#[O+])C#[O+] 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"C/[CH:10]=[CH:11]/[CH:62]=[CH:63]/C.[F:20][N+:21]1=[CH:32][CH:33]=[CH:34][CH:43]=[CH:42]1>>C[CH:10]([CH+:11]/[CH:62]=[CH:63]/C)[F:20].[N:21]1=[CH:32][CH:33]=[CH:34][CH:43]=[CH:42]1 10,11=10,20;20,21=21"
"CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)([CH:10](C)C)[O:12]1.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)=[O+:12]1.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10](C)C)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1 10,11=10,20;12=11,12"
C1=CC=C([C+:20]2[S:31]CC[S:41]2)C=C1.CO[C:64]1=[CH:63][CH:62]=[C:61]([O-:10])[CH:72]=[CH:73]1>>CO[C:64]1=[CH:63][CH:62]=[C:61]([O:10][C:20]2(C3=CC=CC=C3)[S:31]CC[S:41]2)[CH:72]=[CH:73]1 10=20
"C12C3C4C5C1[Fe:32]23451678C2C1C6[C:31]7([CH+:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)C28.CC(C)C[Sn:63](CC(C)C)(CC(C)C)[CH2:62][C:11](C)(C)[H:10]>>C12C3C4C5C1[Fe:32]23451678C2C1C6[C:31]7([CH:20]([H:10])[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)C28.CC(C)C[Sn:63](CC(C)C)(CC(C)C)[CH2:62][C+:11](C)C 10,11=10,20"
"CC1=CC=C([S:32](/[CH:21]=[CH:20]/C2=CC=CC=C2)(=[O:33])=[O:34])C=C1.C[Sn:63](C)(C)[CH2:62][CH:11]([H:10])[C:71]1=[CH:72][CH:73]=[C:74](C)[CH:83]=[CH:82]1>>CC1=CC=C([S:32]([CH-:21][CH:20](C2=CC=CC=C2)[H:10])(=[O:33])=[O:34])C=C1.C[Sn:63](C)(C)[CH2:62][CH+:11][C:71]1=[CH:72][CH:73]=[C:74](C)[CH:83]=[CH:82]1 10,11=10,20;20,21=21"
"C1=C[C:61]2=[C:62](C=C1)[NH:12][N:11]=[N:10]2.CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]=[C:21]2[S:32](=[O:33])(=[O:34])C3=C(C=CC=C3)[S:42]2(=[O:43])=[O:44])[CH:55]=[CH:56]1>>CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]([N:10]2[N:11]=[NH+:12][C:62]3=[C:61]2C=CC=C3)[C-:21]2[S:32](=[O:33])(=[O:34])C3=C(C=CC=C3)[S:42]2(=[O:43])=[O:44])[CH:55]=[CH:56]1 10,11=10,20;12=11,12;20,21=21"
"COC(=O)C1CCC[N:12]1[C:11]1=[CH:10]CCCC1.N#C[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[CH:21]/[C:22](C2=CC=CC=C2)=[O:23])[CH:36]=[CH:35]1>>COC(=O)C1CCC[N+:12]1=[C:11]1CCCC[CH:10]1[CH:20]([CH:21]=[C:22](C1=CC=CC=C1)[O-:23])[C:31]1=[CH:32][CH:33]=[C:34](C#N)[CH:35]=[CH:36]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CCCCC[C:11](=[CH2:10])CCCC1.C[N+:21](C)=[CH:20][C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1>>C[N:21](C)[CH:20]([CH2:10][C+:11]1CCCCCCCCCC1)[C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1 10,11=10,20;20,21=21"
"CC[O:72]/[C:11](=[CH:10]/[C:61]1=[CH:62][CH:63]=[C:64](Br)[CH:83]=[CH:82]1)[O-:12].C[Si](C)(C)C12[C:31]3([CH2+:20])[Co-3:32]1(C#[O+])(C#[O+])(C#[O+])[Co-3:42]23(C#[O+])(C#[O+])C#[O+]>>CC[O:72][C:11]([CH:10]([CH2:20][C:31]12C3([Si](C)(C)C)[Co-3:32]1(C#[O+])(C#[O+])(C#[O+])[Co-3:42]32(C#[O+])(C#[O+])C#[O+])[C:61]1=[CH:62][CH:63]=[C:64](Br)[CH:83]=[CH:82]1)=[O:12] 10,11=10,20;12=11,12"
"CO[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1.[O-:10][C:61]#[N:62]>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([O:10][C:61]#[N:62])[CH:21]=[N+:22]([O-:23])[O-:33])[CH:46]=[CH:45]1 10=20;20,21=21,22;22,23=23"
"C1=CC=C([P:22](C2=CC=CC=C2)(/[N:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]2)=[O:23])C=C1.[CH:10]1=[CH:11][CH:12]=[CH:13][NH:14]1>>C1=CC=C([P:22](C2=CC=CC=C2)(=[N:21][CH:20]([CH:10]2[CH:11]=[CH:12][CH:13]=[NH+:14]2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]2)[O-:23])C=C1 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
CO[C:64]1=[CH:63][CH:62]=[C:61]([O-:10])[CH:72]=[CH:73]1.F[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CO[C:64]1=[CH:63][CH:62]=[C:61]([O:10][CH:20]([C:31]2=[CH:32][CH:33]=[C:34](F)[CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[CH:72]=[CH:73]1 10=20
"Br[CH-:10][S:61](C1=CC=CC=C1)(=[O:62])=[O:72].C1=CC=C([C:22]([CH:21]=[CH2:20])=[O:23])C=C1>>Br[CH:10]([CH2:20][CH:21]=[C:22](C1=CC=CC=C1)[O-:23])[S:61](C1=CC=CC=C1)(=[O:62])=[O:72] 10=20;20,21=21,22;22,23=23"
"CC[O:92][C:61]([C-:10](C)/[N:71]=[CH:72]/[C:73]1=[CH:74][CH:75]=[CH:76][CH:85]=[CH:84]1)=[O:62].CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1C(C)(C)C>>CC[O:92][C:61]([C:10](C)([CH:20]([CH:21]=[CH:22][N:23]1C(CC2=CC=CC=C2)C(=O)N(C)C1C(C)(C)C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)/[N:71]=[CH:72]/[C:73]1=[CH:74][CH:75]=[CH:76][CH:85]=[CH:84]1)=[O:62] 10=20;20,21=21,22;22,23=23"
"CC1=C[C:71]2=[C:72](C=C1C)[NH:62][CH:61]=[N:10]2.C[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23]>>CC1=C[C:71]2=[C:72](C=C1C)[NH:62][CH:61]=[N+:10]2[CH:20]([CH:21]=[C:22](C)[O-:23])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10=20;20,21=21,22;22,23=23"
